US04340765
(E)-4(1-Naphthyloxy)-2-methyl-2-buten-1-al
A mixture of 11.5 g (E)-4-(bromo-1,1-diethoxy)-2-methyl-2-butene, 13.8 g potassium carbonate and 7.20 g 1-naphthol in 50 ml sieve dried dimethyl formamide is stirred at room temperature under nitrogen for about 64 hours. The reaction mixture is poured into 300 ml distilled water and the mixture stirred for about 30 minutes before being extracted with two 200 ml portions of diethylether. The ether extracts are combined and washed with 200 ml of a 10% aqueous potassium carbonate solution and with 200 ml distilled water and is then treated with magnesium sulfate and activated carbon. Filtration yields a deep red solution which is evaporated to dryness to yield 12.05 g red oil. The oil is dissolved in 60 ml of a 1:5 water-acetone mixture and the solution is stirred at room temperature under nitrogen as 1.5 g p-toluenesulfonic acid monohydrate is added. After about one hour, the acetone is removed on the rotary evaporator and the red oily mixture is treated with 50 ml diethylether and distilled water and the phases separated. The water phase is washed with an additional 50 ml diethylether and the organic phases combined, treated with magnesium sulfate and activated carbon and filtered. The filtrate is evaporated to dryness and yields a red brown oil which gradually solidifies and is dissolved in 80 ml diethylether and the solution is reduced in volume to 40 ml by heating under a stream of nitrogen. Then 10 ml hexanes is added and the solution allowed to cool to room temperature before being placed in a freezer. A yellow solid precipitates and is collected by nitrogen pressure filtration and dried under a stream of nitrogen to yield 2.09 g solid product, m.p. 81.5°-82.5° C. Elemental Analysis. Calculated: C,79.62; H,6.24. Found: C,79.32; H,6.27.

reactant | p-toluenesulfonic acid monohydrate | 1.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water acetone | 60 ml | O.CC(=O)C
solvent | diethylether | 80 ml | C(C)OCC | C4H10O
product | (E)-4(1-Naphthyloxy)-2-methyl-2-buten-1-al | 2.09 g | C1(=CC=CC2=CC=CC=C12)OC/C=C(/C=O)\C | C15H14O2
